US08003806B2
3-[5-(Anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoic acid
A solution of ethyl 3-[5-(anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoate (27 mg, 65 μmol) in a mixture of hydrochloric acid (20 mL of a 5N solution) and acetonitrile (15 mL) was stirred at room temperature for 96 hours. The resulting suspension was then concentrated and filtered, and the resulting solid dried in vacuo over P2O5 to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=4.54 min, MH+ 386].

reactant | ethyl 3-[5-(anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoate | 65 μmol, 27 mg | N(C1=CC=CC=C1)C(=O)C1=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C25H23N3O3
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
product | 3-[5-(Anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoic acid | N(C1=CC=CC=C1)C(=O)C1=CC2=C(N(C=N2)C(CC(=O)O)C2=CC=CC=C2)C=C1 | C23H19N3O3
